US08314138B2
Part A. To a solution of 2-bromo-4-methyl-thiazole-5-carboxylic acid (10 g, 45.0 mmol, 1.0 equiv) and diisopropylethylamine (15.6 mL, 90.0 mmol, 2.0 equiv) in anhydrous dichloromethane (400 mL) was added benzotriazol-1-yloxytris-(dimethylamino)phosphonium hexafluorophosphate (BOP reagent, 22 g, 49.5 mmol, 1.1 equiv) and 4-fluorobenzylamine (5.7 mL, 49.5 mmol, 1.1 equiv). The resulting mixture was stirred at ambient temperature for 12 hr. The reaction mixture was diluted with dichloromethane, washed with water then brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude product was purified by column chromatography [SiO2, ethyl acetate/hexanes, 10:90 to 40:60, v/v], followed by stirring in pentane and filtering the solid to afford 2-bromo-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide (8.5 g, 57% yield). MS (M+H)+=330.1, Rt=1.36 min.

reactant | 2-bromo-4-methyl-thiazole-5-carboxylic acid | 45.0 mmol, 10 g, 1.0 equiv | BrC=1SC(=C(N1)C)C(=O)O | C5H4BrNO2S
reactant | diisopropylethylamine | 90.0 mmol, 15.6 mL, 2.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzotriazol-1-yloxytris-(dimethylamino)phosphonium hexafluorophosphate | 49.5 mmol, 22 g, 1.1 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-fluorobenzylamine | 49.5 mmol, 5.7 mL, 1.1 equiv | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 2-bromo-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 8.5 g, 57% yield | FC1=CC=C(CNC(=O)C2=C(N=C(S2)Br)C)C=C1 | C12H10BrFN2OS
